US05554753
(1) 1-(tert-Butyloxycarbonyl)-3-formylindole
Indole-3-carboxaldehyde (4.53 g, 30 mmol) was dissolved in tetrahydrofuran (100 mL) (dissolved at about 40° C.). Aqueous potassium hydroxide (1N, 30 mL) and tetrabutylammonium bromide (0.97 g, 3 mmol) were added. Then di-t-butylcarbonate (7.2 g, 33 mmol) was added (the temperature should not rise about 25° C.). The resulting mixture was stirred at room temperature until the starting material was not detected by TLC (CH2CL2 /CH3OH 9:1). The reaction mixture was separated, and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layer was dried with MgSO4 and evaporated to give crude product. The product was recrystallized from methylene chloride/hexane (20 mL/100 mL) to obtain needle crystals (7.19 g, 97.7%). m.p. 124°-125° C.

reactant | Indole-3-carboxaldehyde | 30 mmol, 4.53 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | potassium hydroxide | 1N, 30 mL | [OH-].[K+]
reactant | di-t-butylcarbonate | 33 mmol, 7.2 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | CH3OH | CO | CH4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium bromide | 3 mmol, 0.97 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(tert-Butyloxycarbonyl)-3-formylindole | 7.19 g, 97.7% | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C=O | C14H15NO3
